### ISSUE TITLE
[`SimpleGraph`] Paths and incidence sets / degrees

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#18]
```lean
import Mathlib.Combinatorics.SimpleGraph.Paths
import Mathlib.Data.Set.Card
namespace SimpleGraph.Walk
variable {V : Type*} {G : SimpleGraph V} {u v w : V}

namespace IsPath
variable {p : G.Walk u v} (hp : p.IsPath)
include hp

theorem ncard_incidenceSet_inter_edgeSet : (G.incidenceSet w ∩ p.edgeSet).ncard ≤ 2 := by
  -- a path can't use more than 2 edges of `w`
  sorry

theorem ncard_incidenceSet_inter_edgeSet_start : (G.incidenceSet u ∩ p.edgeSet).ncard ≤ 1 := by
  -- a path can't use more than 1 edge of `u`
  sorry

theorem ncard_incidenceSet_inter_edgeSet_end : (G.incidenceSet v ∩ p.edgeSet).ncard ≤ 1 := by
  -- a path can't use more than 1 edge of `v`
  sorry

theorem length_add_degree_le [Fintype <| G.neighborSet w] :
    p.length + G.degree w ≤ G.edgeSet.ncard + 2 := by
  -- because a path can't use more than 2 edges of `w`
  sorry

theorem length_add_degree_start_le [Fintype <| G.neighborSet u] :
    p.length + G.degree u ≤ G.edgeSet.ncard + 1 := by
  -- because a path from `u` can't use more than 1 edge of `u`
  sorry

theorem length_add_degree_end_le [Fintype <| G.neighborSet v] :
    p.length + G.degree v ≤ G.edgeSet.ncard + 1 := by
  -- because a path to `v` can't use more than 1 edge of `v`
  sorry

theorem length_add_degree_le_of_notMem [Fintype <| G.neighborSet v] (hw : w ∉ p.support) :
    p.length + G.degree v ≤ G.edgeSet.ncard := by
  -- because a path without `w` can't use any of its edges
  sorry

end IsPath

namespace IsCycle
variable {p : G.Walk u u} (hp : p.IsCycle)
include hp

theorem ncard_incidenceSet_inter_edgeSet : (G.incidenceSet w ∩ p.edgeSet).ncard ≤ 2 := by
  -- a cycle can't use more than 2 edges of `w`
  sorry

theorem length_add_degree_le [Fintype <| G.neighborSet w] :
    p.length + G.degree w ≤ G.edgeSet.ncard + 2 := by
  -- because a cycle can't use more than 2 edges of `w`
  sorry

theorem length_add_degree_le_of_notMem [Fintype <| G.neighborSet v] (hw : w ∉ p.support) :
    p.length + G.degree v ≤ G.edgeSet.ncard := by
  -- because a cycle without `w` can't use any of its edges
  sorry

end IsCycle
```
